US09169254B2
HMPT (7.40 ml, 39.5 mmol) was added to a solution of 4-oxo-cyclohexanecarboxylic acid benzyl ester (1.50 g, 6.59 mmol) and CF2Br2 (1.8 ml, 19.8 mmol) in THF (30 ml) at 0° C., and the reaction mixture was stirred at room temperature for 22 hours. Water was added, followed by extraction with ethyl acetate. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=100/0→75/25) to give 4-difluoromethylene-cyclohexanecarboxylic acid benzyl ester (166 mg, 9%).

reactant | HMPT | 39.5 mmol, 7.40 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 4-oxo-cyclohexanecarboxylic acid benzyl ester | 6.59 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)=O | C14H16O3
reactant | CF2Br2 | 19.8 mmol, 1.8 ml | C(F)(F)(Br)Br | CBr2F2
reactant | Water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-difluoromethylene-cyclohexanecarboxylic acid benzyl ester | 166 mg, 9% | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)=C(F)F | C15H16F2O2
